US04044141
Analogously to Example 1 eating a solution of 75 mmols of 3'-nitrobenzylideneacetoacetic acid isopropyl ester and 75 mmols of β-aminocrotonic acid 3,4-dichlorobenzyl ester in 120 ml of isopropanol gave 2,6-dimethyl-3-isopropoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3, 4-dichlorobenzyl ester of melting point 155° C (from ethanol).

reactant | 2,6-dimethyl-3-isopropoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3, 4-dichlorobenzyl ester | ClC=1C=C(COC(=O)C=2C(C(=C(NC2C)C)C(=O)OC(C)C)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1Cl | C25H24Cl2N2O6
reactant | ethanol | C(C)O | C2H6O
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | β-aminocrotonic acid 3,4-dichlorobenzyl ester | 75 mmols, Yield: 75% | ClC=1C=C(COC(\C=C(\C)/N)=O)C=CC1Cl | C11H11Cl2NO2
